US09145429B2
A solution of 2-(4-bromo-3-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran (2.93 g, 7.61 mmol) in anhydrous THF (25 mL) was made before cooling the reaction mixture on a −78° C. bath. Reaction mixture was then treated, dropwise, with n-BuLi (13.08 mL, 20.92 mmol) and allowed to stir for 1.0 h before (i-PrO)3B (77 mL, 25 mmol) was added via syringe. After the addition of (i-PrO)3B, the reaction mixture was warmed to room temperature and allowed to stir for 3 h before addition of 12 mL of 1N HCl. The reaction mixture was allowed to stir 20 hr before addition of EtOAc and water (1:1, 50 mL). The layers were separated and the water phase was further extracted with equal volume of EtOAc before the organic layers were combined and dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 7-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol (415 mg, 33%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 2.33 (s, 3H), 4.82 (s, 2H), 6.51 (ds, 1H), 6.53 (s, 1H), 8.57 (s, 1H), 9.59 (s, 1H).

reactant | 2-(4-bromo-3-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran | 7.61 mmol, 2.93 g | BrC1=C(C=C(OC2OCCCC2)C=C1COC1OCCCC1)C | C18H25BrO4
reactant | n-BuLi | 20.92 mmol, 13.08 mL | [Li]CCCC
reactant | (i-PrO)3B | 25 mmol, 77 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 12 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol | 415 mg, 33% | CC1=CC(=CC2=C1B(OC2)O)O | C8H9BO3
